US08809352B2
(R)-4-(4-(dimethylamino)-1-(phenylthio)butan-2-ylamino)-3-(trifluoromethyl)benzenesulfonamide
The title compound was prepared from 4-fluoro-3-(trifluoromethyl)-benzenesulfonamide and (R)—N1,N1-dimethyl-4-phenylsulfanyl-butane-1,3-diamine using the procedure described for Intermediate 4.

reactant | 4-fluoro-3-(trifluoromethyl)-benzenesulfonamide | FC1=C(C=C(C=C1)S(=O)(=O)N)C(F)(F)F | C7H5F4NO2S
reactant | (R)—N1,N1-dimethyl-4-phenylsulfanyl-butane-1,3-diamine | CN(CC[C@H](CSC1=CC=CC=C1)N)C | C12H20N2S
product | (R)-4-(4-(dimethylamino)-1-(phenylthio)butan-2-ylamino)-3-(trifluoromethyl)benzenesulfonamide | CN(CC[C@H](CSC1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)N)C(F)(F)F)C | C19H24F3N3O2S2
